US05925253
Step I--4-Penten-2-yl Methacrylate
Sodium metal (0.2 g) was dissolved in anhydrous methanol (3 g) and to this solution 4-penten-2-ol (18.5 g) was added followed by the addition of methyl methacrylate (50 g). The resulting mixture was stirred and heated until the methanol started to distill. The distilled methanol was collected at 64-70° C. After the removal of methanol was complete, the temperature was increased and at about 100° C. methyl methacrylate began to distill. At this moment, the reaction mixture was cooled to room temperature and was divided between dilute sulfuric acid (1N, 250 ml) and methylene dichloride (150 ml). The organic phase was then separated and washed with water and dried. Remaining solvents were removed and the residue was then fractionated under vacuum. Pure 4-penten-2-yl methacrylate was collected at 65-68° C./25 mmHg. Yield 17.5 g.

reactant | Sodium | 0.2 g | [Na] | Na
reactant | 4-penten-2-ol | 18.5 g | CC(CC=C)O | C5H10O
reactant | methyl methacrylate | 50 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | methanol | 3 g | CO | CH4O
product | 4-Penten-2-yl Methacrylate | C(C(=C)C)(=O)OC(C)CC=C | C9H14O2
